US04728663
6-Bromo-N-[4-(1H-imidazol-1-yl)butyl]benz[cd]indol-2-amine
A mixture 4.2 g of 4-(1H-imidazol-1-yl)butanamine dihydrochloride in 75 ml of ethanol was treated with 2.2 g of potassium hydroxide and stirred for 18 hours. A 5.2 g portion of 6-bromo-benz[cd]indole-2-thiol and 6.4 g of mercuric acetate were added and the reaction proceeded as described in Example 1, giving 3.7 g of the desired product, mp 145°-147° C.

reactant | 4-(1H-imidazol-1-yl)butanamine dihydrochloride | 4.2 g | Cl.Cl.N1(C=NC=C1)CCCCN
reactant | potassium hydroxide | 2.2 g | [OH-].[K+]
reactant | 6-bromo-benz[cd]indole-2-thiol | BrC=1C=2C3=C(C(=NC3=CC1)S)C=CC2 | C11H6BrNS
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 6-Bromo-N-[4-(1H-imidazol-1-yl)butyl]benz[cd]indol-2-amine | 3.7 g | BrC=1C=2C3=C(C(=NC3=CC1)NCCCCN1C=NC=C1)C=CC2 | C18H17BrN4
